US07414050B2
d) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-amino-1-aminomethyl-ethyl)-2-cyclohex-1-enyl-phenyl]-amide
4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-azido-1-azidomethyl-ethyl)-2-cyclohex-1-enyl-phenyl]-amide (as prepared above, 546 mg, 1.00 mmol) was dissolved in THF (1 mL), water (2 mL) and MeOH (10 mL). To this solution NH4Cl (534 mg, 25.0 mmol) and Zn powder (653 mg, 10.0 mmol) were added with cooling. The resulting mixture was stirred at RT for 30 min and filtered through a thin pad of Celite. The filter cake was washed with MeOH (2×10 mL). The filtrate was concentrated, dissolved in 5% i-PrOH/DCM and washed with satd aq NaHCO3 (20 mL). The organic layer was dried (Na2SO4) and concentrated to obtain the title compound (207 mg, 42%): Mass spectrum (ESI, m/z): Calcd. for C26H38N6O2Si, 495.3 (M+H). found 495.2.

reactant | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-azido-1-azidomethyl-ethyl)-2-cyclohex-1-enyl-phenyl]-amide | 1.00 mmol, 546 mg | N(=[N+]=[N-])CC(CN=[N+]=[N-])C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C26H34N10O2Si
reactant | water | 2 mL | O | H2O
reactant | MeOH | 10 mL | CO | CH4O
reactant | NH4Cl | 25.0 mmol, 534 mg | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | Zn | 10.0 mmol, 653 mg | [Zn] | Zn
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-amino-1-aminomethyl-ethyl)-2-cyclohex-1-enyl-phenyl]-amide | 207 mg, 42% | NCC(CN)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C26H38N6O2Si
